US04413006
A mixture of 1 g of 1-[3-(4-amino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine, 1.06 g of 2-(t-butoxycarbonylthio)-4,6-dimethylpyrimidine and 15 ml of anhydrous tetrahydrofuran is refluxed for 65 hours. After the reaction, the mixture is evaporated under reduced pressure to remove tetrahydrofuran. Methylene chloride is added to the residue, and the mixture is washed with an aqueous 10% sodium hydroxide solution and water, successively. Said mixture is dried and then evaporated under reduced pressure to remove the solvent. The residue is purified by silica gel chromatography (Solvent; 1.5% methanol/chloroform), and then recrystallized from a mixture of benzene and n-hexane. 1.31 g of 1-[3-(4-t-butoxycarbonylamino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine are thereby obtained as colorless needles. Yield: 85%

reactant | 1-[3-(4-amino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine | 1 g | NC1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C20H27N3O2
reactant | 2-(t-butoxycarbonylthio)-4,6-dimethylpyrimidine | 1.06 g | C(C)(C)(C)OC(=O)SC1=NC(=CC(=N1)C)C | C11H16N2O2S
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-[3-(4-t-butoxycarbonylamino-2-methoxyphenoxy)-n-propyl]-4-phenyl-piperazine | 1.31 g, Yield: 85% | C(C)(C)(C)OC(=O)NC1=CC(=C(OCCCN2CCN(CC2)C2=CC=CC=C2)C=C1)OC | C25H35N3O4
